US07012075B2
To a solution of 2-[(4-bromobenzyl)oxy]4-methylpentanoic acid in DMF (15 mL) was added aminoacetonitrile hydrochloride (1.9 g, 20.6 mmoles) and HATU (5 g, 13.3 mmoles). After stirring for one minute, triethylamine (5.3 mL, 38.3 mmoles) was added in one portion. The reaction was stirred overnight, diluted with ethyl acetate and water. The organic phase was separated and washed twice with 1.2 N hydrochloric acid, brine and dried over magnesium sulfate. After concentration under reduced pressure, 2-[(4-bromobenzyl)oxy]-N-(cyanomethyl)-4-methylpentanamide was obtained.

reactant | 2-[(4-bromobenzyl)oxy]4-methylpentanoic acid | BrC1=CC=C(COC(C(=O)O)CC(C)C)C=C1 | C13H17BrO3
reactant | aminoacetonitrile hydrochloride | 20.6 mmoles, 1.9 g | Cl.NCC#N
reactant | HATU | 13.3 mmoles, 5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 38.3 mmoles, 5.3 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[(4-bromobenzyl)oxy]-N-(cyanomethyl)-4-methylpentanamide | BrC1=CC=C(COC(C(=O)NCC#N)CC(C)C)C=C1 | C15H19BrN2O2
